US06762330B2
A 50 mL of reactor equipped with magnetic stir bar was charged with 340 mg (0.50 mmol) of {[(t-Bu)2P(OH)]PdCl2}2 (from Experiment 8), 1.12 g (10.0 mmol) of chlorobenzene, 1.02 g (12.0 mmol) of piperidine and 1.35 g (14.0 mmol) of NaO(t-Bu) in 20.0 mL of toluene. The resulting mixture was refluxed for 16 h before the reaction was cooled to room temperature and quenched with 50 mL of H2O. The mixture was transferred to a separatory funnel, and diluted with 300 mL of diethyl ether. The layers were separated, and organic layer was washed with H2O (2×30 mL), brine (30 mL), and dried over mgSO4, filtered, and the ether removed from the filtrate by rotary evaporation. The resulting residue was chromatographed on silicon gel with hexane/ethyl acetate (50:1 volume ratio). The eluate was concentrated by rotary evaporation followed by high vacuum to give 700 mg (43% yield) of 1-phenylpiperidine.

reactant | chlorobenzene | 10.0 mmol, 1.12 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | piperidine | 12.0 mmol, 1.02 g | N1CCCCC1 | C5H11N
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-phenylpiperidine | 700 mg, 43% yield | C1(=CC=CC=C1)N1CCCCC1 | C11H15N
